US03978068
28.8 g (0.1 mol) of phenylglyoxylic acid methyl ester-2-hexahydrobenzoylhydrazone and 10 g of hydrazine hydrate (0.2 mol) were stirred in 100 ml of pyridine, which had been dried over potassium hydroxide, for 45 minutes at 100°C and the mixture was subsequently cooled. Thereupon, the mixture solidifed to a paste. 100 ml of water were added and the whole was stirred for some hours and the product filtered off. After washing with water and drying, 5.3 g (19.7% of theory) of 3-cyclohexyl-4-amino-6-phenyl-5-H-1,2,4-triazin-5-one were obtained in colorless flakes of melting point 178°-180°C.

reactant | phenylglyoxylic acid methyl ester-2-hexahydrobenzoylhydrazone | 0.1 mol, 28.8 g | C(C1CCCCC1)(=O)NN=C(C(=O)OC)C1=CC=CC=C1 | C16H20N2O3
reactant | hydrazine hydrate | 0.2 mol, 10 g | O.NN
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-cyclohexyl-4-amino-6-phenyl-5-H-1,2,4-triazin-5-one | 5.3 g, 19.7% | C1(CCCCC1)C1=NN=C(C(N1N)=O)C1=CC=CC=C1 | C15H18N4O
